US04430505
Following the procedure of example 23 60.1 g of urea, 93.1 g of aniline, 8.9 g of ethyl carbamate and 0.5 g of dibutyl-tin-oxide are heated to 170° C. Subsequently 84 g of ethanol are added dropwise at such a rate that the reaction temperature can be maintained between 170° and 175° C. After a total reaction time of 10 hours the reaction is stopped by cooling to room temperature. 161 g (98% of the theoretical yield) of N-phenyl-carbamic acid ethyl ester are found by HPLC analysis.

reactant | urea | 60.1 g | NC(=O)N | CH4N2O
reactant | aniline | 93.1 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl carbamate | 8.9 g | C(N)(OCC)=O | C3H7NO2
reactant | dibutyl-tin-oxide | 0.5 g | C(CCC)[Sn](CCCC)=O
solvent | ethanol | 84 g | C(C)O | C2H6O
product | N-phenyl-carbamic acid ethyl ester | C(C)OC(NC1=CC=CC=C1)=O | C9H11NO2
